US04304728
6-Phenyl-2-tetrazol-5-yl-4H-pyran-4-one
A mixture of 4-oxo-6-phenyl-4H-pyran-2-carbonitrile (1.10 g), sodium azide (0.45 g) and ammonium chloride (0.37 g) in dry dimethylformamide (10 ml) was stirred at room temperature for 2 hours. A precipitate formed. Dilute hydrochloric acid (1 M, 20 ml) was added and the resulting white solid was filtered off. Recrystallisation from acetic acid yielded the title product as white crystals (251°-254° C. with decomposition).

reactant | 4-oxo-6-phenyl-4H-pyran-2-carbonitrile | 1.10 g | O=C1C=C(OC(=C1)C1=CC=CC=C1)C#N | C12H7NO2
reactant | sodium azide | 0.45 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.37 g | [Cl-].[NH4+]
reactant | hydrochloric acid | 1 M, 20 ml | Cl | ClH
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-Phenyl-2-tetrazol-5-yl-4H-pyran-4-one | C1(=CC=CC=C1)C1=CC(C=C(O1)C1=NN=NN1)=O | C12H8N4O2
